US07807708B2
6.9 g (0.17 mol) of sodium hydride are suspended in 200 mL of tetrahydrofuran. 13 g (57 mmol) of 4-bromo-2-tert-butylaniline are added, along with 200 mL of dimethyl sulfoxide, added slowly. The mixture turns blue and, after 30 minutes, 13 mL (0.17 mol) of ethyl iodide are added and the reaction medium, which has turned white, is stirred at room temperature for 13 hours. The reaction medium is then poured into saturated ammonium chloride solution and extracted with ethyl acetate, and the organic phase is then washed twice with water. It is dried and then concentrated to dryness. The residue is purified by chromatography on silica gel (eluent: 90/10 heptane/ethyl acetate). 14.8 g of (4-bromo-2-tert-butylphenyl)diethylamine are obtained (yield=91%) in the form of a yellow oil.

reactant | sodium hydride | 0.17 mol, 6.9 g | [H-].[Na+]
reactant | 4-bromo-2-tert-butylaniline | 57 mmol, 13 g | BrC1=CC(=C(N)C=C1)C(C)(C)C | C10H14BrN
reactant | ethyl iodide | 0.17 mol, 13 mL | C(C)I | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | (4-bromo-2-tert-butylphenyl)diethylamine | 14.8 g, yield=91% | BrC1=CC(=C(C=C1)N(CC)CC)C(C)(C)C | C14H22BrN
